US08912210B2
Step B: 5-(2-Fluoro-3-methylphenyl)-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one
A deoxygenated mixture of 5-bromo-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one (2.00 g, 6.35 mmol), (2-fluoro-3-methylphenyl)boronic acid (1.95 g, 12.7 mmol), potassium fluoride (2.43 g, 41.9 mmol), and bis(tri-tert-butylphosphine) palladium(0) (0.333 g, 0.652 mmol) in THF (32 mL) was heated at 66° C. for 30 min. The reaction mixture was allowed to cool to 23° C., then partitioned between water (200 mL) and ethyl acetate (200 mL). The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel, eluting with hexane initially, grading to 50% EtOAc in hexanes to give the title compound. MS: m/z=345.1 (M+1).

reactant | 5-bromo-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | 6.35 mmol, 2.00 g | BrC=1C=C(C(N(C1C)CC(F)(F)F)=O)[N+](=O)[O-] | C8H6BrF3N2O3
reactant | (2-fluoro-3-methylphenyl)boronic acid | 12.7 mmol, 1.95 g | FC1=C(C=CC=C1C)B(O)O | C7H8BFO2
reactant | potassium fluoride | 41.9 mmol, 2.43 g | [F-].[K+]
solvent | THF | 32 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine) palladium(0) | 0.652 mmol, 0.333 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | 5-(2-Fluoro-3-methylphenyl)-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | FC1=C(C=CC=C1C)C=1C=C(C(N(C1C)CC(F)(F)F)=O)[N+](=O)[O-] | C15H12F4N2O3
